US06476032B2
A. 4-Carbobenzyloxy-1-(5,6-Dichloro-2-Nitrophenyl) Piperazine-2-Carboxylic Acid
By the same procedure described for Example 7 A, from 0.86 g of 2,3,4-trichloro-nitro-benzene and 1.0 g of 4-carbobenzyloxypiperazine-2-carboxylic acid, there was obtained 0.75 g of the desired product as a brown oil.

reactant | 2,3,4-trichloro-nitro-benzene | 0.86 g | ClC1=C(C=CC(=C1Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
reactant | 4-carbobenzyloxypiperazine-2-carboxylic acid | 1.0 g | C(=O)(OCC1=CC=CC=C1)N1CC(NCC1)C(=O)O | C13H16N2O4
product | 4-Carbobenzyloxy-1-(5,6-Dichloro-2-Nitrophenyl) Piperazine-2-Carboxylic Acid | 0.75 g | C(=O)(OCC1=CC=CC=C1)N1CC(N(CC1)C1=C(C=CC(=C1Cl)Cl)[N+](=O)[O-])C(=O)O | C19H17Cl2N3O6
